US04337256
1-(4-Bromophenyl)-5-hydroxymethylisoquinoline (17 g) was dissolved in 300 ml of tetrahydrofuran, and 15 ml of phosphorus oxychloride was added. The mixture was stirred at room temperature for 1 hour. After the reaction, water was added, and the reaction mixture was neutralized with an aqueous solution of sodium hydroxide. The mixture was extracted with benzene, and dried. The solvent was distilled off. The residue was recrystallized from ether-hexane to afford 13.2 g of 1-(4-bromophenyl)-5-chloromethylisoquinoline as colorless prisms having a melting point of 115.5° to 118.5° C.

reactant | 1-(4-Bromophenyl)-5-hydroxymethylisoquinoline | 17 g | BrC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CO | C16H12BrNO
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(4-bromophenyl)-5-chloromethylisoquinoline | 13.2 g | BrC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C16H11BrClN
